US05041673
1-(2-Nitroethenyl)-3,5-dimethoxybenzene
A mixture consisting of 3,5-dimethoxybenzaldehyde (20 g), nitromethane (20 ml), ammonium acetate (8 g) and acetic acid (80 ml) was refluxted for 11/2 hours and the reaction mixture was poured into ice-water. The yellow solid which separated was filtered and dried under high vacuum to yield the title compound (22.3 g).

reactant | 3,5-dimethoxybenzaldehyde | 20 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | nitromethane | 20 ml | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 8 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 1-(2-Nitroethenyl)-3,5-dimethoxybenzene | 22.3 g | [N+](=O)([O-])C=CC1=CC(=CC(=C1)OC)OC | C10H11NO4
